Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
EUS
 
History of Present Illness:
Ms. ___ is a ___ woman with history of HTN,
DMII, cirrhosis who initially presented to an outside hospital
with abdominal pain and was found to have gallstone 
pancreatitis,
transferred to ___ for ERCP.

The patient reports that she was in her usual state of health
until the day of presentation, when she developed acute onset of
severe epigastric and right-sided abdominal pain with radiation
to her back. This pain was associated with nausea and vomiting.
She denies any fevers or chills. 

No changes in bowels. She presented to ___, where was
found to have lipase over 12,000, TBili 2.2 and DBili 1.2, AST
64, ALT 28, alk phos 241, CT with distal CBD stones and
pancreatitis. BUN 10, no pleural effusion, no SIRS criteria met.

She was treated supportively with fluids, analgesics, and
antiemetics, and today her TBili was 1.3, AST 53, alk phos 196.
She was accepted in transfer for advanced endoscopy evaluation
and likely cholecystectomy. VS prior to transfer 98.0 77 111/90
100% RA.

On arrival to the floor, she reports that she has ongoing
right-sided back pain, ___. She denies any abdominal pain,
nausea, vomiting, fevers, chills, or any other complaints at
present.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
HTN
NIDDMI
Cirrhosis (unknown etiology) c/b esophageal varices
 
Social History:
___
Family History:
Mother with hypertension and hyperlipidemia. No
known family history of gallbladder disease.

 
Physical Exam:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, nontender Bowel sounds present. 
 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Pleasant, appropriate affect

 
Pertinent Results:
Per report from OSH
Imaging: 
CT A/P
1. Cirrhosis with portal hypertension, splenomegaly and multiple
varices as detailed.
2. ___ucts calculus and findings consistent 
with
mild pancreatitis evidence by peripancreatic inflammation. MRCP
may be helpful for further assessment, depending on clinical
factors.
3. No drainable collection or ascites.07:10AM BLOOD Calcium-9.0 
Phos-3.1 Mg-1.6

EUS: 2 grade 2 esophageal varices, mild portal gastropathy, 
normal CBD without stone. 

MRCP: Cirrhotic liver morphology with evidence of portal 
hypertension.  No lesions 
meeting optn criteria for ___. 
  
Cholelithiasis.  No choledocholithiasis. 

 
Brief Hospital Course:
SUMMARY/ASSESSMENT: Ms. ___ is a ___ woman with
history of HTN, DMII, cirrhosis who initially presented to an
outside hospital with abdominal pain and was found to have
gallstone pancreatitis, transferred to ___ for ERCP.

ACUTE/ACTIVE PROBLEMS:
# Abdominal pain, nausea, vomiting
# Presumed Acute gallstone pancreatitis
# Choledocholithiasis with biliary obstruction: Patient 
presented
with abdominal pain, found to have gallstone pancreatitis and
choledocholithiasis with biliary obstruction, now improving. 
Evaluated by ERCP team, and underwent EUS, which found no stone 
in CBD.  Therefore an ERCP was not pursued.  Tbili peaked at 
2.5, and was trended during hospital course. It decreased on a 
daily basis.  Transplant service was consulted, and they were 
not keen on doing a CCY until patient's MELD score was low 
enough. MRCP showed no choledocholithiasis, but Cholelithiasis.  
In the future, she will likely need a cholecystectomy.  
Initially needed pain control with Tylenol (max daily dose 
2grams), oxycodone as
needed, but on final three days of admission, was totally pain 
free and eating a regular diet. 

CHRONIC/STABLE PROBLEMS:
# DMII: 
- Hold metformin, hISS while hospitalized, ___ qID.  Restart 
metformin on discharge.  

# Cirrhosis: Unknown etiology. Patient denies any history of
alcohol. History of ascites at time of diagnosis but none since.
No history of HE. History of varices; last EGD ___ years ago per
patient. She needs to follow up with hepatologist.  Interested 
in following up with specialists at ___.  Can coordinate this 
with her PCP.  
- Continue nadolol, ursodiol

# Hypertension:
- losartan held initially, but restarted as there was no plan 
for further invasive procedures.
if blood pressures allow
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Nadolol 20 mg PO DAILY 
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. Ursodiol 500 mg PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Losartan Potassium 50 mg PO DAILY  
2.  MetFORMIN (Glucophage) 500 mg PO BID  
3.  Nadolol 20 mg PO DAILY  
4.  Ursodiol 500 mg PO DAILY  
5.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gallstone pancreatitis, acute
cirrhosis

 
Discharge Condition:
Good, ambulatory, tolerating diet
 
Discharge Instructions:
You were admitted for evaluation of abdominal pain presumed due 
to gallstone pancreatitis. For this, you underwent an endoscopic 
ultrasound, during which they could not find a stone.  You will 
eventually need to have your gallbladder removed, but this 
discussion can continue between you and your primary care and 
liver specialist. Please take all your medications as indicated. 

 
Followup Instructions:
___